US09145418B2
Ethyl [6-bromo-7-(3-fluorophenyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-4-yl]acetate [(XV) R2=3-chlorophenyl, Hal=Bromo]
Ethyl [7-(3-fluorophenyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-4-yl]acetate (116 mg, 0.36 mmol) was dissolved in dry dioxane (15 ml) and reacted with N-bromo succinimide (72 mg, 0.40 mmol) overnight at room temperature. The crude was dried under vacuo and purified on silica gel with Ethyl Acetate/Hexane 3/2 to give the wanted compound in quantitative yield.

reactant | Ethyl [7-(3-fluorophenyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-4-yl]acetate | 0.36 mmol, 116 mg | FC=1C=C(C=CC1)C=1C=C2N(C(CNC2=O)CC(=O)OCC)C1 | C17H17FN2O3
reactant | N-bromo succinimide | 0.40 mmol, 72 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | Ethyl [6-bromo-7-(3-fluorophenyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazin-4-yl]acetate | quantitative yield | BrC1=C(C=C2N1C(CNC2=O)CC(=O)OCC)C2=CC(=CC=C2)F | C17H16BrFN2O3
